US04258047
35.1 g of 1-methyl-4-piperidyl 3-p-chlorobenzoyl-4-dimethylamino-3-butenoate [obtainable by esterification of 3-p-chlorobenzoyl-propionic acid with 1-methyl-piperidin-4-ol to produce 1-methyl-4-piperidyl 3-p-chloro-benzoylpropionate and subsequent reaction of the latter with dimethylformamide dimethyl acetal in the presence of acetic acid at 120°] and 12 g of phenylhydrazine are warmed for 4 hours at 100°. The reaction mixture is subjected to the customary working up (benzene/water) and 1-methyl-4-piperidyl 5-p-chlorophenyl-1-phenyl-pyrazol-4-yl-acetate is obtained; m.p. 90°-93°. Hydrochloride, m.p. 234°-235°.

reactant | 3-p-chlorobenzoyl-propionic acid | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
reactant | 1-methyl-piperidin-4-ol | CN1CCC(CC1)O | C6H13NO
product | 1-methyl-4-piperidyl 3-p-chlorobenzoyl-4-dimethylamino-3-butenoate | 35.1 g | ClC1=CC=C(C(=O)C(CC(=O)OC2CCN(CC2)C)=CN(C)C)C=C1 | C19H25ClN2O3
